US07947686B2
Step 2. Preparation of 3-amino-5-(3,5-difluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-2-carboxylic acid ethyl ester [(XII), Ra=Rb=H, R=3,5-difluorophenyl, Q=ethyl]
To a suspension of 3-amino-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-2-carboxylic acid ethyl ester hydrochloride (36.2 g, 127.8 mmol) in anhydrous dichloromethane (1 L), at 0°-5° C., N,N-diisopropylethylamine (111.3 mL, 639 mmol) was added. To the resulting solution, 3,5-difluorobenzenesulfonyl chloride (27.17 g, 127.8 mmol) was added portionwise. The mixture was stirred at 0°-5° C. for 1 hour then at room temperature for 3 hours. The organic phase was washed with NaHCO3 saturated solution, water and brine, dried over sodium sulfate filtered and evaporated. The crude, was triturated with diethylether (500 mL) to obtain the title compound as yellowish solid (45.48 g, 92%).

reactant | 3-amino-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-2-carboxylic acid ethyl ester hydrochloride | 127.8 mmol, 36.2 g | Cl.C(C)OC(=O)N1N=C2C(CNCC2)=C1N
reactant | N,N-diisopropylethylamine | 639 mmol, 111.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,5-difluorobenzenesulfonyl chloride | 127.8 mmol, 27.17 g | FC=1C=C(C=C(C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | 3-amino-5-(3,5-difluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-2-carboxylic acid ethyl ester | 45.48 g, 92% | C(C)OC(=O)N1N=C2C(CN(CC2)S(=O)(=O)C2=CC(=CC(=C2)F)F)=C1N | C15H16F2N4O4S
